US07291631B2
Using General Procedure B: Reaction of 4-({3-[1-(4-fluoro-phenyl)-1-methyl-ethyl]-pyridin-2-ylmethyl}-amino)-piperidine-1-carboxylic acid tert-butyl ester in CH2Cl2 with 3,5-dimethyl-pyridine-2-carbaldehyde and NaBH(OAc)3 gave 4-((3,5-dimethyl-pyridin-2-ylmethyl)-{3-[1-(4-fluoro-phenyl)-1-methyl-ethyl]-pyridin-2-ylmethyl}-amino)-piperidine-1-carboxylic acid tert-butyl ester as a white foam. 1H NMR (CDCl3) δ 1.25 (m, 3H), 1.43 (s, 9H), 1.61 (s+m, 8H), 2.24 (s, 3H), 2.28 (s, 3H), 2.39-2.47 (m, 3H), 3.35 (m, 1H), 3.66 (s, 2H), 4.02 (s, 2H), 6.87 (m, 4H), 7.19 (s, 2H), 7.82 (d, 1H, J=9.0 Hz), 8.10 (s, 1H), 8.51 (s, 1H). Deprotection with TFA using General Procedure F gave (3,5-dimethyl-pyridin-2-ylmethyl)-{3-[1-(4-fluoro-phenyl)-1-methyl-ethyl]-pyridin-2-ylmethyl}-piperidin-4-yl-amine as a pale yellow foam. 1H NMR (CDCl3) δ 1.56 (s+m, 9H), 1.76 (d, 2H, J=12.0 Hz), 2.21 (s, 3H), 2.28 (s, 3H), 2.52-2.67 (m, 3H), 3.18 (m, 1H), 3.41 (s, 2H), 3.57 (s, 2H), 6.83-6.90 (m, 4H), 7.20 (m, 2H), 7.82 (d, 1H, J=9.0 Hz), 8.09 (s, 1H), 8.49 (d, 1H, J=3.0 Hz). 13C NMR (CDCl3) δ 17.9, 18.4, 27.9, 31.1, 41.9, 42.2, 53.4, 54.1, 54.5, 57.0, 114.9, 115.2, 127.1, 127.2, 131.3, 132.7, 133.8, 138.7, 143.1, 145.5, 146.3, 146.6, 154.4, 158.1, 159.3, 162.5. HPLC: 90%. ES-MS m/z 447 [M+H]+. Anal. Calcd. for C28H35N4F.0.2 CH2Cl2: C, 73.06; H, 7.70; N, 12.09. Found: C, 73.19; H, 7.79; N, 12.10.

reactant | 4-({3-[1-(4-fluoro-phenyl)-1-methyl-ethyl]-pyridin-2-ylmethyl}-amino)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)NCC1=NC=CC=C1C(C)(C)C1=CC=C(C=C1)F | C25H34FN3O2
reactant | 3,5-dimethyl-pyridine-2-carbaldehyde | CC=1C(=NC=C(C1)C)C=O | C8H9NO
reactant | NaBH(OAc)3 | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-((3,5-dimethyl-pyridin-2-ylmethyl)-{3-[1-(4-fluoro-phenyl)-1-methyl-ethyl]-pyridin-2-ylmethyl}-amino)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)N(CC1=NC=CC=C1C(C)(C)C1=CC=C(C=C1)F)CC1=NC=C(C=C1C)C | C33H43FN4O2
